US08293909B2
3-(3-(tert-butoxycarbonyl)methyl)carbamoyl)-7-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-5-yl)-4-methylbenzoic acid. To a degassed mixture containing tert-butyl 5-chloro-7-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carbonyl(methyl)carbamate (0.060 g, 0.14 mmol), 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (0.047 g, 0.18 mmol), sodium carbonate (0.043 g, 0.43 mmol), dioxane (1.2 mL) and water (0.24 mL) was added tetrakis(tiphenylphosphine)palladium(0) (0.005 g, 0.004 mmol). The mixture was stirred at 95° C. for 18 h. The mixture was cooled to room temperature, filtered to remove solids and adjusted to below pH 4 with 1 N aqueous hydrochloric acid (2.0 mL). Water was added (10 mL) and the aqueous portion was extracted with ethyl acetate (2×15 mL). The combined organic portions were washed with brine (20 mL) and dried over magnesium sulfate. The mixture was filtered and concentrated to afford 3-(3-(tert-butoxycarbonyl(methyl)carbamoyl)-7-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-5-yl)-4-methylbenzoic acid as a residue which was used without further purification. LCMS retention time: 2.725 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 micron, C18, 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% CH3OH/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3OH/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 522 (MH+).

reactant | 4-methylbenzoic acid | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | tert-butyl 5-chloro-7-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carbonyl(methyl)carbamate | 0.14 mmol, 0.060 g | ClC1=CC=2N(C(=C1)F)N=C(C2C(=O)N(C(OC(C)(C)C)=O)C)C2=CC=C(C=C2)F | C20H18ClF2N3O3
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 0.18 mmol, 0.047 g | CC1=C(C=C(C(=O)O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
reactant | sodium carbonate | 0.43 mmol, 0.043 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 0.24 mL | O | H2O
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | 3-(3-(tert-butoxycarbonyl(methyl)carbamoyl)-7-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-5-yl)-4-methylbenzoic acid | C(C)(C)(C)OC(=O)N(C(=O)C=1C(=NN2C1C=C(C=C2F)C=2C=C(C(=O)O)C=CC2C)C2=CC=C(C=C2)F)C | C28H25F2N3O5
